### PR TITLE
[Merged by Bors] - feat(Geometry/Euclidean/Angle/Unoriented/Affine): Add Theorem about Sbtw.angle_eq and Wbtw.angle_eq

### PR DESCRIPTION
**Pull request by wangying11123**
add some theorems about Sbtw.angle_eq and Wbtw.angle_eq.

Main additions

`_root_.Sbtw.angle_eq_right`
- An Unoriented angle is unchanged by replacing the third point by one strictly further away on the same ray. 

`_root_.Sbtw.angle_eq_left`
- An Unoriented angle is unchanged by replacing the first point by one strictly further away on the same ray.

`_root_.Wbtw.angle_eq_right`
- An Unoriented angle is unchanged by replacing the third point by one weakly further away on the same ray.

`_root_.Wbtw.angle_eq_left`
- An Unoriented angle is unchanged by replacing the first point by one weakly further away on the same ray.

### CODE REVIEW

File: Mathlib/Geometry/Euclidean/Angle/Unoriented/Affine.lean [hunk 1]
```diff
@@ -373,6 +373,47 @@ theorem angle_eq_zero_iff_eq_and_ne_or_sbtw {p₁ p₂ p₃ : P} :
...
+    have hr := sbtw_iff_mem_image_Ioo_and_ne.mp h
+    obtain ⟨hr1, hr2⟩ := hr
+    simp only [Set.mem_image, Set.mem_Ioo] at hr1
+    obtain ⟨r, hr1, hr2⟩ := hr1
+    rw [AffineMap.lineMap_apply] at hr2
+    use r; repeat aesop
+  obtain ⟨r, hr1,hr2⟩ := h
+  rw [hr2]
+  apply InnerProductGeometry.angle_smul_right_of_pos
+  exact hr1
```
Comment (jsm28) [inline Mathlib/Geometry/Euclidean/Angle/Unoriented/Affine.lean]:
```suggestion
theorem _root_.Sbtw.angle_eq_right {p₁ p₂ p₃ p : P} (h : Sbtw ℝ p₂ p₃ p) :
    ∠ p₁ p₂ p₃ = ∠ p₁ p₂ p :=
  angle_eq_angle_of_angle_eq_pi _ h.angle₁₂₃_eq_pi
```

Comment (wangying11123) [reply Mathlib/Geometry/Euclidean/Angle/Unoriented/Affine.lean]: Thank you for your help! I made the proof too complicated.

File: Mathlib/Geometry/Euclidean/Angle/Unoriented/Affine.lean [hunk 2]
```diff
@@ -373,6 +373,36 @@ theorem angle_eq_zero_iff_eq_and_ne_or_sbtw {p₁ p₂ p₃ : P} :
   by_cases hp₃p₂ : p₃ = p₂; · simp [hp₃p₂]
   simp [hp₁p₂, hp₁p₃, Ne.symm hp₁p₃, Sbtw, hp₃p₂]
 
+/-- An Unoriented angle is unchanged by replacing the third point by one strictly further away on
+the same ray. -/
+theorem _root_.Sbtw.angle_eq_right {p₁ p₂ p₃ p : P} (h : Sbtw ℝ p₂ p₃ p) :
```
Comment (jsm28) [inline Mathlib/Geometry/Euclidean/Angle/Unoriented/Affine.lean]: `p₁` should be an explicit argument here; it can't be deduced from `h`.

File: Mathlib/Geometry/Euclidean/Angle/Unoriented/Affine.lean [hunk 3]
```diff
@@ -373,6 +373,36 @@ theorem angle_eq_zero_iff_eq_and_ne_or_sbtw {p₁ p₂ p₃ : P} :
...
+    ∠ p₁ p₂ p₃ = ∠ p₁ p₂ p :=
+  angle_eq_angle_of_angle_eq_pi _ h.angle₁₂₃_eq_pi
+
+/-- An Unoriented angle is unchanged by replacing the first point by one strictly further away on
+the same ray. -/
+theorem _root_.Sbtw.angle_eq_left {p₁ p p₂ p₃ : P} (h : Sbtw ℝ p₂ p₁ p) :
```
Comment (jsm28) [inline Mathlib/Geometry/Euclidean/Angle/Unoriented/Affine.lean]: Likewise, `p₃` should be explicit.

File: Mathlib/Geometry/Euclidean/Angle/Unoriented/Affine.lean [hunk 4]
```diff
@@ -373,6 +373,36 @@ theorem angle_eq_zero_iff_eq_and_ne_or_sbtw {p₁ p₂ p₃ : P} :
...
+    ∠ p₁ p₂ p₃ = ∠ p p₂ p₃ := by
+  rw [angle_comm]
+  nth_rw 2 [angle_comm]
+  exact Sbtw.angle_eq_right h
+
+/-- An Unoriented angle is unchanged by replacing the third point by one weakly further away on the
+same ray. -/
+theorem _root_.Wbtw.angle_eq_right {p₁ p₂ p₃ p : P} (h : Wbtw ℝ p₂ p₃ p) (hp₃p₂ : p₃ ≠ p₂) :
```
Comment (jsm28) [inline Mathlib/Geometry/Euclidean/Angle/Unoriented/Affine.lean]: Likewise, `p₁` should be explicit.

File: Mathlib/Geometry/Euclidean/Angle/Unoriented/Affine.lean [hunk 5]
```diff
@@ -373,6 +373,36 @@ theorem angle_eq_zero_iff_eq_and_ne_or_sbtw {p₁ p₂ p₃ : P} :
...
+    ∠ p₁ p₂ p₃ = ∠ p₁ p₂ p := by
+  by_cases hp₃p : p₃ = p; · simp [hp₃p]
+  apply Sbtw.angle_eq_right
+  exact ⟨h, hp₃p₂, hp₃p⟩
+
+/-- An Unoriented angle is unchanged by replacing the first point by one weakly further away on the
+same ray. -/
+theorem _root_.Wbtw.angle_eq_left {p₁ p p₂ p₃ : P} (h : Wbtw ℝ p₂ p₁ p) (hp₁p₂ : p₁ ≠ p₂) :
```
Comment (jsm28) [inline Mathlib/Geometry/Euclidean/Angle/Unoriented/Affine.lean]: Likewise, `p₃` should be explicit.

File: Mathlib/Geometry/Euclidean/Angle/Unoriented/Affine.lean (hunk 2 above)
Comment (wangying11123) [reply Mathlib/Geometry/Euclidean/Angle/Unoriented/Affine.lean]: fixed

File: Mathlib/Geometry/Euclidean/Angle/Unoriented/Affine.lean (hunk 3 above)
Comment (wangying11123) [reply Mathlib/Geometry/Euclidean/Angle/Unoriented/Affine.lean]: fixed

File: Mathlib/Geometry/Euclidean/Angle/Unoriented/Affine.lean (hunk 4 above)
Comment (wangying11123) [reply Mathlib/Geometry/Euclidean/Angle/Unoriented/Affine.lean]: fixed

File: Mathlib/Geometry/Euclidean/Angle/Unoriented/Affine.lean (hunk 5 above)
Comment (wangying11123) [reply Mathlib/Geometry/Euclidean/Angle/Unoriented/Affine.lean]: fixed

File: Mathlib/Geometry/Euclidean/Angle/Unoriented/Affine.lean [hunk 6]
```diff
@@ -373,6 +373,36 @@ theorem angle_eq_zero_iff_eq_and_ne_or_sbtw {p₁ p₂ p₃ : P} :
...
+    ∠ p₁ p₂ p₃ = ∠ p₁ p₂ p :=
+  angle_eq_angle_of_angle_eq_pi _ h.angle₁₂₃_eq_pi
+
+/-- An Unoriented angle is unchanged by replacing the first point by one strictly further away on
+the same ray. -/
+theorem _root_.Sbtw.angle_eq_left {p₁ p p₂ : P} (p₃ : P) (h : Sbtw ℝ p₂ p₁ p) :
+    ∠ p₁ p₂ p₃ = ∠ p p₂ p₃ := by
+  rw [angle_comm]
+  nth_rw 2 [angle_comm]
+  exact Sbtw.angle_eq_right p₃ h
```
Comment (jcommelin) [inline Mathlib/Geometry/Euclidean/Angle/Unoriented/Affine.lean]:
```suggestion
  simpa only [angle_comm] using h.angle_eq_right p₃
```

File: Mathlib/Geometry/Euclidean/Angle/Unoriented/Affine.lean [hunk 7]
```diff
@@ -373,6 +373,36 @@ theorem angle_eq_zero_iff_eq_and_ne_or_sbtw {p₁ p₂ p₃ : P} :
...
+
+/-- An Unoriented angle is unchanged by replacing the third point by one weakly further away on the
+same ray. -/
+theorem _root_.Wbtw.angle_eq_right {p₂ p₃ p : P} (p₁ : P) (h : Wbtw ℝ p₂ p₃ p) (hp₃p₂ : p₃ ≠ p₂) :
+    ∠ p₁ p₂ p₃ = ∠ p₁ p₂ p := by
+  by_cases hp₃p : p₃ = p; · simp [hp₃p]
+  apply Sbtw.angle_eq_right
+  exact ⟨h, hp₃p₂, hp₃p⟩
```
Comment (jcommelin) [inline Mathlib/Geometry/Euclidean/Angle/Unoriented/Affine.lean]:
```suggestion
  exact Sbtw.angle_eq_right _ ⟨h, hp₃p₂, hp₃p⟩
```

File: Mathlib/Geometry/Euclidean/Angle/Unoriented/Affine.lean [hunk 8]
```diff
@@ -373,6 +373,36 @@ theorem angle_eq_zero_iff_eq_and_ne_or_sbtw {p₁ p₂ p₃ : P} :
...
+
+/-- An Unoriented angle is unchanged by replacing the first point by one weakly further away on the
+same ray. -/
+theorem _root_.Wbtw.angle_eq_left {p₁ p p₂ : P} (p₃ : P) (h : Wbtw ℝ p₂ p₁ p) (hp₁p₂ : p₁ ≠ p₂) :
+    ∠ p₁ p₂ p₃ = ∠ p p₂ p₃ := by
+  rw [angle_comm]
+  nth_rw 2 [angle_comm]
+  exact Wbtw.angle_eq_right p₃ h hp₁p₂
```
Comment (jcommelin) [inline Mathlib/Geometry/Euclidean/Angle/Unoriented/Affine.lean]:
```suggestion
  simpa only [angle_comm] using h.angle_eq_right p₃ hp₁p₂
```

**Review by jcommelin — COMMENTED** [review]
Thanks :tada:

bors d+

File: Mathlib/Geometry/Euclidean/Angle/Unoriented/Affine.lean (hunk 6 above)
Comment (wangying11123) [reply Mathlib/Geometry/Euclidean/Angle/Unoriented/Affine.lean]: Thank you very much!

File: Mathlib/Geometry/Euclidean/Angle/Unoriented/Affine.lean (hunk 7 above)
Comment (wangying11123) [reply Mathlib/Geometry/Euclidean/Angle/Unoriented/Affine.lean]: Thank you very much!

File: Mathlib/Geometry/Euclidean/Angle/Unoriented/Affine.lean (hunk 8 above)
Comment (wangying11123) [reply Mathlib/Geometry/Euclidean/Angle/Unoriented/Affine.lean]: Thank you very much!
